US08207147B2
4-[Methyl-(3-pyridin-4-yl-[1,2,4]oxadiazol-5-ylmethyl)amino]piperidine-1-carboxylic acid cyclopentyl ester
The tert-butoxycarbonyl group of 4-[methyl(3-pyridin-4-yl-[1,2,4]oxadiazol-5-ylmethyl)amino]piperidine-1-carboxylic acid tert-butyl ester (Example 119) was removed using the procedure described in Example 51 to afford methylpiperidin-4-yl-(3-pyridin-4-yl-[1,2,4]oxadiazol-5-ylmethyl)amine: RT=0.65 min; m/z (ES+)=274.0 [M+H]+. Derivatisation of methylpiperidin-4-yl-(3-pyridin-4-yl-[1,2,4]oxadiazol-5-ylmethyl)amine with cyclopentylchloroformate, using the procedure described for Example 52, afforded the title compound: RT=3.02 min; m/z (ES+)=386.0 [M+H]+.

reactant | methylpiperidin-4-yl-(3-pyridin-4-yl-[1,2,4]oxadiazol-5-ylmethyl)amine | CN(CC1=NC(=NO1)C1=CC=NC=C1)C1CCNCC1 | C14H19N5O
reactant | cyclopentylchloroformate | C1(CCCC1)OC(=O)Cl | C6H9ClO2
product | 4-[Methyl-(3-pyridin-4-yl-[1,2,4]oxadiazol-5-ylmethyl)amino]piperidine-1-carboxylic acid cyclopentyl ester | C1(CCCC1)OC(=O)N1CCC(CC1)N(CC1=NC(=NO1)C1=CC=NC=C1)C | C20H27N5O3
